US04563449
To a suspension of 7-amino-3-(1-pyridiniomethyl)-3-cephem-4-carboxylate dihydrochloride dihydrate (56 g) in methylene chloride (1.12 l) was added trimethylsilylacetamide (280 g) and the mixture was stirred for 15 minutes at ambient temperature. The solution was cooled at -20° C. and 2-allyloxyimino-2-(5-dichlorophosphorylamino-1,2,4-thiadiazol-3-yl)acetyl chloride (syn isomer) (51 g) was added thereto at the same temperature under stirring, which was continued for 20 minutes at -13° to -10° C. and for 30 minutes at -5° to 0° C. The reaction mixture was poured into a saturated aqueous solution of sodium bicarbonate (1 l) under stirring and the aqueous layer was separated out. The organic layer was extracted twice with water (800 ml, 400 ml) and the extracts were combined with the aqueous layer. The combined aqueous solution was adjusted to pH 1.5 with 6N hydrochloric acid and the resulting precipitate was filtered off. The filtrate was subjected to column chromatography on nonionic adsorption resin "Diaion HP-20" (6 l). After the column was washed with water (10 l), the elution was carried out with 20% aqueous methanol. The fractions containing the object compound were combined, adjusted to pH 6.0 with 1N aqueous sodium hydroxide and concentrated to a weight of 318 g under reduced pressure. To the solution was added ion-exchange resin "Dowex 50 W 10 X(H+ form)" (prepared by the Dow Chemical Co.) (120 g) and the mixture was stirred for 5 minutes. The resin was filtered off, washed with water (142 ml), and the filtrate and the washings were combined. The combined solution was mixed with n-butanol (2.5 l) at -15° to -10° C. and to the resulting solution was added acetone (2.5 l) dropwise at -10° C. under stirring, which was continued for 40 minutes after removing the cooling bath. The resulting precipitate was filtered, washed with acetone (500 ml) and dried to give 7-[2-allyloxyimino-2-(5-phosphonoamino-1,2,4-thiadiazol-3-yl)acetamido]-3-(1-pyridiniomethyl)-3-cephem-4-carboxylate (syn isomer) (60.6 g), mp. 175° to 181° C. (dec.).

reactant | 7-amino-3-(1-pyridiniomethyl)-3-cephem-4-carboxylate dihydrochloride dihydrate | 56 g | O.O.Cl.Cl.NC1[C@@H]2N(C(=C(CS2)C[N+]2=CC=CC=C2)C(=O)[O-])C1=O
reactant | trimethylsilylacetamide | 280 g | C[Si](C)(C)CC(=O)N | C5H13NOSi
reactant | 2-allyloxyimino-2-(5-dichlorophosphorylamino-1,2,4-thiadiazol-3-yl)acetyl chloride | 51 g | C(C=C)ON=C(C(=O)Cl)C1=NSC(=N1)NP(=O)(Cl)Cl | C7H6Cl3N4O3PS
reactant | sodium bicarbonate | 1 l | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 1.12 l | C(Cl)Cl | CH2Cl2
product | 7-[2-allyloxyimino-2-(5-phosphonoamino-1,2,4-thiadiazol-3-yl)acetamido]-3-(1-pyridiniomethyl)-3-cephem-4-carboxylate | 60.6 g | C(C=C)ON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)C[N+]2=CC=CC=C2)C(=O)[O-])C1=O)C1=NSC(=N1)NP(=O)(O)O | C20H20N7O8PS2
